* C:\Users\subha\OneDrive\Documents\GitHub\PMIC_Final_Project_Fall_Buck_Converter\tb_error_amplifier_ac.asc
XX1 N001 N002 N003 0 vout error_amplifier
V1 N001 0 1.8
V3 N003 0 0.8 AC 1
V2 N002 0 0.8

* block symbol definitions
.subckt error_amplifier VDDA VINN VINP GNDA VOUT
Q1 N008 N010 GNDA 0 2N3904
R1 N010 GNDA 1Meg
Q2 N001 N008 N010 0 2N3904
M3 N001 N001 VDDA VDDA CMOSP l=180n w=5u
R2 VDDA N008 1Meg
M4 N002 N001 VDDA VDDA CMOSP l=180n w=5u
M5 N005 VINP N002 N002 CMOSP l=180n w=1.35u
M6 N007 VINN N002 N002 CMOSP l=180n w=1.35u
M7 N005 N007 GNDA GNDA CMOSN l=360n w=1u
M8 N007 N007 GNDA GNDA CMOSN l=360n w=1u
M9 N006 N001 VDDA VDDA CMOSP l=180n w=5u
M2 GNDA N006 VOUT VOUT CMOSP l=180n w=5u
M10 VOUT N001 VDDA VDDA CMOSP l=180n w=5u
M1 N006 N003 GNDA GNDA CMOSN l=180n w=1u
M11 N009 N001 VDDA VDDA CMOSP l=180n w=5u
M12 N009 N009 GNDA GNDA CMOSN l=180n w=1u
M13 GNDA N005 N004 N004 CMOSP l=180n w=5u
M14 N004 N001 VDDA VDDA CMOSP l=180n w=5u
M15 N003 N009 GNDA GNDA CMOSN l=180n w=1u
M16 VDDA N004 N003 N003 CMOSN l=180n w=1u
C1 N006 N005 10f
.include tsmc018.lib
.ends error_amplifier

.model NPN NPN
.model PNP PNP
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\subha\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.ac dec 20 100 1G
.backanno
.end
